* C:\Users\emanu\Documents\A_UNIVERSITA\iBacchi\Microelectronics Mod. B - Valle\My_OTA_CMOS_FoldedCascode\MyOta.asc
M2 N003 in2 N005 0 MODN l=1.4u w=36.4u
M1 N002 in1 N005 0 MODN l=1.4u w=36.4u
M4 N003 Vbias1 out power MODP l=1.4u w=92.4u
M6 out N004 N008 0 MODN l=1.4u w=36.4u
M8 N008 N007 0 0 MODN l=1.4u w=36.4u
M10 power N001 N003 power MODP l=1.4u w=184.8u
M11 N005 N006 0 0 MODN l=1.4u w=72.8u
VDD power 0 3.3
M3 N002 Vbias1 N004 power MODP l=1.4u w=92.4u
M9 power N001 N002 power MODP l=1.4u w=184.8u
M5 N004 N004 N007 0 MODN l=1.4u w=36.4u
M7 N007 N007 0 0 MODN l=1.4u w=36.4u
M12 N006 N006 0 0 MODN l=1.4u w=72.8u
I power N006 200µ
M13 power N001 N001 power MODP l=1.4u w=184.8u
IB N001 0 200µ
Vicm icm 0 2
V1 in1 icm SINE(0 10u 20) AC 10u
V2 in2 icm SINE(0 -10u 20) AC 10u 180
V3 Vbias1 0 1.87
C1 out 0 5p
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\emanu\Documents\LTspiceXVII\lib\cmp\standard.mos
.MODEL MODN NMOS LEVEL=7
*LEVEL=49 
* ----------------------------------------------------------------------
************************* SIMULATION PARAMETERS ************************
* ----------------------------------------------------------------------
* format    : HSPICE -> retyped for PSPICE
* model     : MOS BSIM3v3
* process   : C35
* revision : 4.0; 
* extracted : B10866 ; 2002-12; ese(5487)
* doc#      : ENG-182 REV_6
* ----------------------------------------------------------------------
*                        TYPICAL MEAN CONDITION
* ----------------------------------------------------------------------
*
*        *** Flags ***
+MOBMOD =1.000e+00 CAPMOD =2.000e+00 
+NLEV   =0 NOIMOD =3 VERSION=3.240e+00 
*        *** Threshold voltage related model parameters ***
+K1     =5.0296e-01 
+K2     =3.3985e-02 K3     =-1.136e+00 K3B    =-4.399e-01 
+NCH    =2.611e+17 VTH0   =4.979e-01 
+VOFF   =-8.925e-02 DVT0   =5.000e+01 DVT1   =1.039e+00 
+DVT2   =-8.375e-03 KETA   =2.032e-02 
+PSCBE1 =1.000e+30 PSCBE2 =1.000e-06 
+DVT0W  =1.089e-01 DVT1W  =6.671e+04 DVT2W  =-1.352e-02 
*        *** Mobility related model parameters ***
+UA     =4.705e-12 UB     =2.137e-18 UC     =1.000e-20 
+U0     =4.758e+02 
*        *** Subthreshold related parameters ***
+DSUB   =5.000e-01 ETA0   =1.415e-02 ETAB   =-1.221e-01 
+NFACTOR=4.136e-01 
*        *** Saturation related parameters ***
+EM     =4.100e+07 PCLM   =6.948e-01 
+PDIBLC1=3.571e-01 PDIBLC2=2.065e-03 DROUT  =5.000e-01 
+A0     =2.541e+00 A1     =0.000e+00 A2     =1.000e+00 
+PVAG   =0.000e+00 VSAT   =1.338e+05 AGS    =2.408e-01 
+B0     =4.301e-09 B1     =0.000e+00 DELTA  =1.442e-02 
+PDIBLCB=3.222e-01 
*        *** Geometry modulation related parameters ***
+W0     =2.673e-07 DLC    =3.0000e-08 
+DWC    =9.403e-08 DWB    =0.000e+00 DWG    =0.000e+00 
+LL     =0.000e+00 LW     =0.000e+00 LWL    =0.000e+00 
+LLN    =1.000e+00 LWN    =1.000e+00 WL     =0.000e+00 
+WW     =-1.297e-14 WWL    =-9.411e-21 WLN    =1.000e+00 
+WWN    =1.000e+00 
*        *** Temperature effect parameters ***
+TNOM   =27.0 AT     =3.300e+04 UTE    =-1.800e+00 
+KT1    =-3.302e-01 KT2    =2.200e-02 KT1L   =0.000e+00 
+UA1    =0.000e+00 UB1    =0.000e+00 UC1    =0.000e+00 PRT    =0.000e+00 
*         *** Overlap capacitance related and dynamic model parameters   ***
+CGSO   =1.200e-10 CGDO   =1.200e-10 CGBO   =1.100e-10 
+CGDL   =1.310e-10 CGSL   =1.310e-10 CKAPPA =6.000e-01 
+CF     =0.000e+00 ELM    =5.000e+00 
+XPART  =1.000e+00 CLC    =1.000e-15 CLE    =6.000e-01 
+
*        *** Parasitic resistance and capacitance related model parameters ***
+RDSW   =3.449e+02 
+CDSC   =0.000e+00 CDSCB  =1.500e-03 CDSCD  =1.000e-03 
+PRWB   =-2.416e-01 PRWG   =0.000e+00 CIT    =4.441e-04 
*        *** Process and parameters extraction related model parameters ***
+TOX    =7.575e-09 NGATE  =0.000e+00 
+NLX    =1.888e-07 
* +XL     =0.000e+00 XW     =0.000e+00 
*        *** Substrate current related model parameters ***
+ALPHA0 =2.600e-06 ALPHA1 =5.000e+00 BETA0  =2.100e+01 
*        *** Noise effect related model parameters ***
+AF     =1.507e+00 KF     =2.170e-26 EF     =1.000e+00 
+NOIA   =1.121e+19 NOIB   =5.336e+04 NOIC   =-5.892e-13 
*        *** Common extrinsic model parameters ***
*+ACM    =2        
+RD     =0.000e+00 RS     =0.000e+00 RSH    =7.000e+01 
* +RDC    =0.000e+00 RSC    =0.000e+00 
+LINT   =-5.005e-08  WINT   =9.403e-08 
* +LDIF   =0.000e+00 
*HDIF   =8.000e-07
*+WMLT   =1.000e+00 
*+LMLT   =1.000e+00 
+XJ     =3.000e-07 
+JS     =5.100e-07 JSW    =0.600e-12 
* IS     =0.000e+00 
+N      =1.000e+00 
*+NDS    =1000. 
*+VNDS   =-1.000e+00 
*+CBD    =0.000e+00 
*+CBS    =0.000e+00 
+CJ     =8.400e-04 CJSW   =2.500e-10 
* +FC     =0.000e+00 
+MJ     =3.400e-01 MJSW   =2.300e-01 
+XTI    =2.026e+00 
+TT     =0.000e+00 
+PBSW    =6.900e-01 
* ----------------------------------------------------------------------
* Owner: austriamicrosystems
* HIT-Kit: Digital
.MODEL MODP PMOS Level = 7
*LEVEL=49 
* ----------------------------------------------------------------------
************************* SIMULATION PARAMETERS ************************
* ----------------------------------------------------------------------
* format    : HSPICE -> revised for PSPICE
* model     : MOS BSIM3v3
* process   : C35
* revision : 4.1; 
* extracted : C64685 ; 2002-12; ese(5487)
* doc#      : ENG-182 REV_6
* ----------------------------------------------------------------------
*                        TYPICAL MEAN CONDITION
* ----------------------------------------------------------------------
*
*        *** Flags ***
+MOBMOD =1.000e+00 CAPMOD =2.000e+00 
+NLEV   =0 NOIMOD =3 VERSION=3.24e+00 
*        *** Threshold voltage related model parameters ***
+K1     =5.9959e-01 
+K2     =-6.038e-02 K3     =1.103e+01 K3B    =-7.580e-01 
+NCH    =9.240e+16 VTH0   =-6.915e-01 
+VOFF   =-1.170e-01 DVT0   =1.650e+00 DVT1   =3.868e-01 
+DVT2   =1.659e-02 KETA   =-1.440e-02 
+PSCBE1 =1.000e+30 PSCBE2 =1.000e-06 
+DVT0W  =1.879e-01 DVT1W  =7.335e+04 DVT2W  =-6.312e-03 
*        *** Mobility related model parameters ***
+UA     =5.394e-10 UB     =1.053e-18 UC     =1.000e-20 
+U0     =1.482e+02 
*        *** Subthreshold related parameters ***
+DSUB   =5.000e-01 ETA0   =2.480e-01 ETAB   =-3.917e-03 
+NFACTOR=1.214e+00 
*        *** Saturation related parameters ***
+EM     =4.100e+07 PCLM   =3.184e+00 
+PDIBLC1=1.000e-04 PDIBLC2=1.000e-20 DROUT  =5.000e-01 
+A0     =5.850e-01 A1     =0.000e+00 A2     =1.000e+00 
+PVAG   =0.000e+00 VSAT   =1.158e+05 AGS    =2.468e-01 
+B0     =8.832e-08 B1     =0.000e+00 DELTA  =1.000e-02 
+PDIBLCB=1.000e+00 
*        *** Geometry modulation related parameters ***
+W0     =1.000e-10 DLC    =2.4500e-08 
+DWC    =3.449e-08 DWB    =0.000e+00 DWG    =0.000e+00 
+LL     =0.000e+00 LW     =0.000e+00 LWL    =0.000e+00 
+LLN    =1.000e+00 LWN    =1.000e+00 WL     =0.000e+00 
+WW     =1.894e-16 WWL    =-1.981e-21 WLN    =1.000e+00 
+WWN    =1.040e+00 
*        *** Temperature effect parameters ***
+TNOM   =27.0 AT     =3.300e+04 UTE    =-1.300e+00 
+KT1    =-5.403e-01 KT2    =2.200e-02 KT1L   =0.000e+00 
+UA1    =0.000e+00 UB1    =0.000e+00 UC1    =0.000e+00 PRT    =0.000e+00 
*         *** Overlap capacitance related and dynamic model parameters   ***
+CGSO   =8.600e-11 CGDO   =8.600e-11 CGBO   =1.100e-10 
+CGDL   =1.080e-10 CGSL   =1.080e-10 CKAPPA =6.000e-01 
+CF     =0.000e+00 ELM    =5.000e+00 
+XPART  =1.000e+00 CLC    =1.000e-15 CLE    =6.000e-01 
+
*        *** Parasitic resistance and capacitance related model parameters ***
+RDSW   =1.033e+03 
+CDSC   =2.589e-03 CDSCB  =2.943e-04 CDSCD  =4.370e-04 
+PRWB   =-9.731e-02 PRWG   =1.477e-01 CIT    =0.000e+00 
*        *** Process and parameters extraction related model parameters ***
+TOX    =7.754e-09 NGATE  =0.000e+00 
+NLX    =1.770e-07 
* +XL     =0.000e+00 XW     =0.000e+00 
*        *** Substrate current related model parameters ***
+ALPHA0 =1.000e-09 ALPHA1 =1.500e+00 BETA0  =3.250e+01 
*        *** Noise effect related model parameters ***
+AF     =1.461e+00 KF     =1.191e-26 EF     =1.000e+00 
+NOIA   =5.245e+17 NOIB   =4.816e+03 NOIC   =8.036e-13 
*        *** Common extrinsic model parameters ***
*+ACM    =2        
+RD     =0.000e+00 RS     =0.000e+00 RSH    =1.290e+02 
* +RDC    =0.000e+00 RSC    =0.000e+00 
+LINT   =-7.130e-08  WINT   =3.449e-08 
* +LDIF   =0.000e+00
*HDIF   =8.000e-07 
*+WMLT   =1.000e+00 
*+LMLT   =1.000e+00 XJ     =3.000e-07 
+JS     =2.800e-07 JSW    =3.700e-13 
* IS     =0.000e+00 
+N      =1.000e+00 
*+NDS    =1000. 
*+VNDS   =-1.000e+00 
*+CBD    =0.000e+00 
*+CBS    =0.000e+00 
+CJ     =1.360e-03 CJSW   =3.500e-10 
* +FC     =0.000e+00 
+ MJ     =5.400e-01 MJSW   =4.600e-01 
+XTI    =1.973e+00 TT     =0.000e+00 
*+PB     =1.020e+00 
+PBSW     =1.020e+00
*+PHP    =1.020e+00 
* ----------------------------------------------------------------------
* Owner: austriamicrosystems
* HIT-Kit: Digital
;tran 500m
;tran 500m
.ac dec 500 1 100meg
.backanno
.end
